US06956138B2
CH3CH(OH)CH2OCH2Ph (50.0 g) and pyridine (150 ml) were put into a flask, and under cooling with ice, p-toluenesulfonic acid chloride (63.2 g) was added over a period of 30 minutes. The mixture was stirred at room temperature for 4 days, and then water (150 ml) was added, followed by extraction twice with dichloromethane (100 ml). The extracted organic phase was washed twice with a KHCO3 saturated aqueous solution (100 ml) and twice with water (100 ml), dried over magnesium sulfate, filtered and further concentrated to obtain PhCH2OCH2CH(CH3)OTs (71.2 g).

reactant | CH3CH(OH)CH2OCH2Ph | 50.0 g | CC(O)COCC1=CC=CC=C1 | C10H14O2
reactant | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonic acid chloride | 63.2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | water | 150 ml | O | H2O
product | PhCH2OCH2CH(CH3)OTs | 71.2 g | C1(=CC=CC=C1)COCC(C)OS(=O)(=O)C1=CC=C(C)C=C1 | C17H20O4S
